* Z:\home\sbecht\ultra-efficient-adc\doublebiasLVS.asc
M1 neg N004 Cascode neg nfet l=3.9u w=2.1u
M2 Bias N004 neg neg nfet l=8.1u w=.9u
M3 Cascode Cascode N001 Vdd pfet l=3.9u w=8.1u
M4 N001 Bias Bias Vdd pfet l=.9u w=8.1u
M5 N001 Bias Vdd Vdd pfet l=3.9u w=8.1u
M6 N005 N004 neg neg nfet l=3.9u w=2.1u
M7 N005 N004 N004 neg nfet l=3.9u w=8.1u
M8 N004 Bias Vdd Vdd pfet l=3.9u w=1.8u
M9 N003 N003 N005 neg nfet l=3.9u w=2.1u
M10 Vdd Bias N003 Vdd pfet l=3.9u w=8.1u
M11 Vdd Vdd N001 Vdd pfet l=3.9u w=8.1u
M12 Vdd Vdd Cascode Vdd pfet l=3.9u w=8.1u
M13 Cascode neg neg neg nfet l=3.9u w=2.1u
M14 neg N004 Cascode neg nfet l=3.9u w=2.1u
M15 Bias N004 neg neg nfet l=8.1u w=.9u
M16 Cascode Cascode N002 Vdd pfet l=3.9u w=8.1u
M17 N002 Bias Bias Vdd pfet l=.9u w=8.1u
M18 N002 Bias Vdd Vdd pfet l=3.9u w=8.1u
M19 N006 N004 neg neg nfet l=3.9u w=2.1u
M20 N006 N004 N004 neg nfet l=3.9u w=8.1u
M21 N004 Bias Vdd Vdd pfet l=3.9u w=1.8u
M22 N003 N003 N006 neg nfet l=3.9u w=2.1u
M23 Vdd Bias N003 Vdd pfet l=3.9u w=8.1u
M24 Vdd Vdd N002 Vdd pfet l=3.9u w=8.1u
M25 Vdd Vdd Cascode Vdd pfet l=3.9u w=8.1u
M26 Cascode neg neg neg nfet l=3.9u w=2.1u
.backanno
.end
